US06642226B2
To a mixture of 1-benzyl-3-phenyl-piperidin-4-one (10.0 g, 37.7 mmol) and piperazine (13.0 g, 151 mmol) was added tetraisopropyl-orthotitanate (42.8 mL, 151 mmol) at room temperature. After stirring at room temperature overnight the reaction mixture was diluted with ethanol (300 mL) and sodium cyanoborohydride (10.5 g, 151 mmol) was added. The reaction mixture was stirred at room temperature for 24 h and was diluted with water (10 mL). The inorganic precipitate was filtered off and washed with ethanol. The solvent was evaporated and the residue was taken up in ethylenglycol (130 mL) and sodium hydroxide (13.6 g, 37.7 mmol) was added. The reaction mixture was stirred at 130° C. for 15 min. After cooling water (200 mL) was added and the mixture was extracted twice with 200 mL diethylether. Organic phases were pooled, dried with magnesium sulfate and evaporated. Flash chromatography on silica gel with methylene chloride/triethyl amine 99:1 gave rac-cis-1-(1-benzyl-3-phenyl-piperidin-4-yl)-piperazine (4.63 g, 36%), as a yellow oil, MS: m/e=336.3 (M+H+).

reactant | 1-benzyl-3-phenyl-piperidin-4-one | 37.7 mmol, 10.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C1=CC=CC=C1 | C18H19NO
reactant | piperazine | 151 mmol, 13.0 g | N1CCNCC1 | C4H10N2
reactant | sodium cyanoborohydride | 151 mmol, 10.5 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 37.7 mmol, 13.6 g | [OH-].[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | rac-cis-1-(1-benzyl-3-phenyl-piperidin-4-yl)-piperazine | 4.63 g, 36% | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=CC=C1 | C22H29N3
